* IR2104 - Uproszczony model do LTspice z prądowymi wyjściami
.SUBCKT IR2104 IN HO LO VS VB
.PARAM VDD=12
.PARAM VTHRESH=2.5

* Bufor prądowy – HO
VHO HOint 0 DC 0
GHO HO 0 VALUE = { IF(V(IN) > VTHRESH, 1, 0) }
RHO HO HOint 1Meg

* Bufor prądowy – LO
VLO LOint 0 DC 0
GLO LO 0 VALUE = { IF(V(IN) > VTHRESH, 0, 1) }
RLO LO LOint 1Meg

.ENDS IR2104
